US08389734B2
A mixture of 3-bromo-5-(methylsulfonyl)pyridine (0.50 g, 2.1 mmol) and CuSO4 (H2O)5 (53 mg, 0.21 mmol) in concentrated ammonium hydroxide (3 mL) was heated in a sealed tube at 170° C. for 16 hours. The reaction was cooled to room temperature and extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and evaporated to give a brown solid. The solid was purified by column chromatography on silica gel using 0-5% MeOH in dichloromethane to give 5-(methylsulfonyl)pyridin-3-amine (0.11 g, 31% yield) as a tan solid. LC/MS: m/z 173.3 (M+H) at 0.21 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 3-bromo-5-(methylsulfonyl)pyridine | 2.1 mmol, 0.50 g | BrC=1C=NC=C(C1)S(=O)(=O)C | C6H6BrNO2S
reactant | ammonium hydroxide | 3 mL | [OH-].[NH4+]
product | 5-(methylsulfonyl)pyridin-3-amine | 0.11 g, 31% yield | CS(=O)(=O)C=1C=C(C=NC1)N | C6H8N2O2S
